US09233956B2
Step A: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-pyrrolidinyl)-1,3-oxazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Intermediate 6 using N-{3-[(Z)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,6-difluorobenzenesulfonamide (2.0 g, 4.72 mmol, NBS (0.924 g, 5.19 mmol) and 1-pyrrolidinecarboxamide (1.077 g, 9.44 mmol) heated to 90° C. for 24 h the title compound of Step A was obtained as an orange solid (0.980 g). MS-ESI m/z 518 (M+H).

reactant | N-{3-[(Z)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,6-difluorobenzenesulfonamide | ClC1=NC=CC(=N1)\C=C(/O)\C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C18H12ClF2N3O3S
reactant | NBS | 5.19 mmol, 0.924 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 1-pyrrolidinecarboxamide | 9.44 mmol, 1.077 g | N1(CCCC1)C(=O)N | C5H10N2O
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-pyrrolidinyl)-1,3-oxazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | ClC1=NC=CC(=N1)C1=C(N=C(O1)N1CCCC1)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C23H18ClF2N5O3S
